US07091215B2
N-[7-(2-Methoxy-4,6-dimethylphenyl)-2-(methylsulfanyl)pyrazolo[1,5-a]pyridin-3-yl]-N-(2-pyridyl)amine
After dissolving [7-(2-methoxy-4,6-dimethylphenyl)-2-(methylsulfanyl)pyrazolo[1,5-a]pyridin-3-yl]amine (40 mg) in toluene (1 mL), 2-bromopyridine (0.013 mL), sodium t-butoxide (25 mg) and dichlorobis(tri-o-tolylphosphine)palladium complex (3 mg) were added and the mixture was heated and stirred at 120° C. for 5 hours. The mixture was cooled to room temperature, water was added, and extraction was performed with ethyl acetate. The organic layer was washed with brine, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The obtained residue was purified by silica gel column chromatography, and the title compound (12 mg) was obtained from the ethyl acetate:n-hexane (1:2) fraction as white crystals.

reactant | [7-(2-methoxy-4,6-dimethylphenyl)-2-(methylsulfanyl)pyrazolo[1,5-a]pyridin-3-yl]amine | 40 mg | COC1=C(C(=CC(=C1)C)C)C1=CC=CC=2N1N=C(C2N)SC | C17H19N3OS
reactant | sodium t-butoxide | 25 mg | CC(C)([O-])C.[Na+]
reactant | water | O | H2O
reactant | 2-bromopyridine | 0.013 mL | BrC1=NC=CC=C1 | C5H4BrN
solvent | toluene | 1 mL | C1(=CC=CC=C1)C | C7H8
product | N-[7-(2-Methoxy-4,6-dimethylphenyl)-2-(methylsulfanyl)pyrazolo[1,5-a]pyridin-3-yl]-N-(2-pyridyl)amine | 12 mg | COC1=C(C(=CC(=C1)C)C)C1=CC=CC=2N1N=C(C2NC2=NC=CC=C2)SC | C22H22N4OS
